US09284286B2
To a mixture of 4-[(dimethyl-carbamoyl)sulfanyl]-2-methyl-thiazole-5-carboxylic acid ethyl ester (0.84 g, 3.06 mmol) in MeOH (30 ml) is added sodium hydride (60% oil dispersion) (0.4 g, 10.1 mmol). The mixture is refluxed for 1 h under an atmosphere of nitrogen and concentrated. The residue is treated with 1M hydrochloric acid and extracted with EtOAc (3×30 ml). The combined organic layers are washed with brine (30 ml), dried over sodium sulfate and concentrated to give 4-mercapto-2-methyl-thiazole-5-carboxylic acid ethyl ester (0.58 g, 2.83 mmol, 94%), which is used in the next step without further purification.

reactant | 4-[(dimethyl-carbamoyl)sulfanyl]-2-methyl-thiazole-5-carboxylic acid ethyl ester | 3.06 mmol, 0.84 g | C(C)OC(=O)C1=C(N=C(S1)C)SC(N(C)C)=O | C10H14N2O3S2
reactant | sodium hydride | 10.1 mmol, 0.4 g | [H-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | 4-mercapto-2-methyl-thiazole-5-carboxylic acid ethyl ester | 2.83 mmol, 0.58 g, 94% | C(C)OC(=O)C1=C(N=C(S1)C)S | C7H9NO2S2
